US07893056B2
To a solution of cis-1,2-diaminocyclohexane (4.8 g, 42 mmol) in dimethoxy ethylene (100 mL) was added slowly diethyl oxalate (28.5 mL, 210 mmol). The reaction mixture was stirred at room temperature for 0.5 h and at 100° C. for 2 h. After the suspension was cooled down to room temperature, the resulting white solid precipitate was collected by filtration. The precipitate was washed with diethyl ether and dried to yield (4aR,8aS)-octahydro-2,3-quinoxalinedione (4.6 g, 66%). LCMS: (M+H)+: 169.1.

reactant | cis-1,2-diaminocyclohexane | 42 mmol, 4.8 g | N[C@H]1[C@H](CCCC1)N | C6H14N2
reactant | diethyl oxalate | 210 mmol, 28.5 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | dimethoxy ethylene | 100 mL | COC=COC | C4H8O2
product | (4aR,8aS)-octahydro-2,3-quinoxalinedione | 4.6 g, 66% | N1C(C(N[C@@H]2CCCC[C@H]12)=O)=O | C8H12N2O2
